US05635477
Part A--A solution of 4-phenylbutyric acid (50.0 g, 0.3 mol) in ethanol (140 mL) with concentrated sulfuric acid (0.53 mL) was stirred at reflux over 5 hours. The cooled solution was poured into ice water and extracted with ethyl acetate. The combined organic layers were backwashed with brine, dried over anhydrous magnesium sulfate and evaporated to dryness under reduced pressure to give 4-phenylbutyric acid ethyl ester (56.07 g, 0.29 mol, 97%) as a yellow liquid. 1H NMR (CDCl3) d 7.3-7.1 (m, 5H), 4.1 (q, 2H, J=7.1Hz), 2.7 (t, 2H, J=7.7Hz), 2.3 (t, 2H, J=7.5Hz), 1.95 (quintet, 2H, J=7.5Hz), 1.25 (t, 3H, J=7.1Hz).

reactant | 4-phenylbutyric acid | 0.3 mol, 50.0 g | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | sulfuric acid | 0.53 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 140 mL | C(C)O | C2H6O
product | 4-phenylbutyric acid ethyl ester | 0.29 mol, 56.07 g, 97% | C(C)OC(CCCC1=CC=CC=C1)=O | C12H16O2
